US04309364
An amount of 10.6 g (86 mmol) of trimethyl phosphite was added dropwise to 20.0 g (86 mmol) of p-chlorophenoxyisobutyryl chloride cooled to 0° C. As varification of the reaction, evolution of methyl chloride could be observed. Distillation under reduced pressure gave 19.0 g (62 mmol) of dimethyl p-chlorophenoxyisobutyrylphosphonate as an almost colorless oil.

reactant | trimethyl phosphite | 86 mmol, 10.6 g | P(OC)(OC)OC | C3H9O3P
reactant | p-chlorophenoxyisobutyryl chloride | 86 mmol, 20.0 g | ClC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10Cl2O2
reactant | methyl chloride | CCl | CH3Cl
product | dimethyl p-chlorophenoxyisobutyrylphosphonate | 62 mmol, 19.0 g | ClC1=CC=C(OC(C(=O)P(OC)(OC)=O)(C)C)C=C1 | C12H16ClO5P
